US07491735B2
To a −78° C. solution of 1-bromo-4-trifluoromethylbenzene (32.9 g, 146 mmol) in anhydrous THF (500 mL) was added n-BuLi (2.5M in Hexanes, 63.4 mL, 158 mmol) dropwise. The mixture was stirred at −78° C. for 1 hour. TMEDA (22.1 mL, 146 mmol) was added followed by 4-formyl-piperidine-1-carboxylic acid tert-butyl ester (26.0 g, 122 mmol) and the mixture was stirred at −78° C. for 1.5 hours. Saturated aqueous NH4Cl (5000 mL) was added and the mixture was warmed to room temperature. The phases were separated and the aqueous phase was extracted with EtOAc (2×300 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated in vacuo. The crude material was crystallized (CH2Cl2/Hexanes) to give 4-[hydroxy-(4-trifluoromethylphenyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester as a white solid (29.0 g). The mother liquor was purified by column chromatography to give further product (3.8 g) as a white solid (combined yield: 32.8 g, 75%). 1H NMR (CDCl3) δ 1.15-1.32 (m, 3H), 1.44 (s, 9H), 1.68-1.81 (m, 1H), 1.89 (d, 1H, J=13.8 Hz), 1.98 (br s, 1H), 2.54-2.68 (m, 2H), 4.12 (br s, 2H), 7.43 (d, 2H, J=8.7 Hz), 7.62 (d, 2H, J=8.7 Hz).

reactant | 1-bromo-4-trifluoromethylbenzene | 146 mmol, 32.9 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | n-BuLi | 158 mmol, 2.5M, 63.4 mL | [Li]CCCC
reactant | TMEDA | 146 mmol, 22.1 mL | CN(C)CCN(C)C | C6H16N2
reactant | 4-formyl-piperidine-1-carboxylic acid tert-butyl ester | 122 mmol, 26.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
reactant | NH4Cl | 5000 mL | [NH4+].[Cl-]
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 4-[hydroxy-(4-trifluoromethylphenyl)-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 29.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C1=CC=C(C=C1)C(F)(F)F)O | C18H24F3NO3
